US05240925
a. Preparation of Ethyl 3-(2,6-dimethyl-4-morpholinyl)propionate
This intermediate (26.0 g.) was prepared using the procedure described in Example 4a except using 24.5 ml. (0.2 mole) of 2,6-dimethylmorpholine, 19.2 ml. (0.20 mole) of ethyl 3-chloropropionate, and 30.3 ml. (0.22 mole) of triethylamine in 60 ml. of toluene and was isolated as a colorless liquid boiling 88°-88.5° C. at 5 mm of Hg.

reactant | 2,6-dimethylmorpholine | 0.2 mole | CC1CNCC(O1)C | C6H13NO
reactant | ethyl 3-chloropropionate | 0.20 mole | ClCCC(=O)OCC | C5H9ClO2
reactant | triethylamine | 0.22 mole | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-(2,6-dimethyl-4-morpholinyl)propionate | CC1CN(CC(O1)C)CCC(=O)OCC | C11H21NO3
